US06753329B2
Synthesis of 5-Amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carboxylic Acid Amide
5-Amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carbonitrile (15 g, 50 mmol) was taken up in conc. H2SO4 (45 mL) and stirred at room temp for 16 h. The reaction was then poured onto 3 N NaOH (850 mL) at 0° C. The resulting solid was then filtered and washed with H2O (1 L). The product was then dried under vacuum to yield the desired ariide (14 g, 88%).

reactant | 5-Amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carbonitrile | 50 mmol, 15 g | NC1=C(C(=NN1C1=C(C=CC=C1Cl)Cl)C(C)C)C#N | C13H12Cl2N4
reactant | NaOH | 3 N, 850 mL | [OH-].[Na+]
solvent | H2SO4 | 45 mL | OS(=O)(=O)O | H2O4S
product | 5-Amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carboxylic Acid Amide | NC1=C(C(=NN1C1=C(C=CC=C1Cl)Cl)C(C)C)C(=O)N | C13H14Cl2N4O
